simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vref (reference_event 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=4n period=10n
Vdiv (feedback_event 0) vsource type=pulse val0=0 val1=0.9 delay=4n rise=50p fall=50p width=4n period=10n

XDUT (reference_event feedback_event vdd vss up_mark down_mark) v2_pfd_lead_lag_007

tran tran stop=120n maxstep=500p
save reference_event feedback_event up_mark down_mark
